US05112988
N,N'-carbonyldiimidazole (1.13 g) is added to a solution, cooled to +5° C., of [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetic acid (1.85 g) in dry dichloromethane (30 cc). The mixture is stirred for 30 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenylperhydro-4-isoindolone hydrochloride (2.29 g) and triethylamine (1.9 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred at 20° C. for 2 hours, then washed with water (2×200 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063 mm, diameter 4 cm, height 50 cm), eluting under a nitrogen pressure of 0.7 bar with a mixture of cyclohexane and ethyl acetate (30:70 by volume) and collecting 125-cc fractions. Fractions 22 to 34 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-2-{[2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetyl}-7,7-diphenylperhydro-4-isoindolone (2.8 g) in the form of a white meringue-like product.

reactant | [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetic acid | 1.85 g | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC=C1)CC(=O)O | C14H19NO4
reactant | (3aRS,7aRS)-7,7-diphenylperhydro-4-isoindolone hydrochloride | 2.29 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.9 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-{[2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetyl}-7,7-diphenylperhydro-4-isoindolone | 2.8 g | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC=C1)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38N2O4
